US07538123B2
200 mg of 5-(2,3-dihydroxypropyl)-6-methoxy-1-tetralone synthesized from 6-hydroxy-1-tetralone according to the methods described in Example 7, (1)-(4), was dissolved in a mixed solution consisting of 5 ml of methanol and 3 ml of tetrahydrofuran. Thereafter, 401 mg of methoxylamine hydrochloride and 394 mg of sodium acetate were added to the reaction solution, and the obtained mixture was then stirred at room temperature. After completion of the reaction, a saturated sodium bicarbonate aqueous solution and ethyl acetate were added to the reaction solution, so as to separate an organic layer. The obtained organic layer was washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride solution, and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure, so as to obtain 183 mg of 5-(2,3-dihydroxypropyl)-6-methoxy-3,4-dihydro-2H-naphthalen-1-one O-methyloxime. The subject compound was obtained from the thus obtained compound according to the method described in Example 1, (4).

reactant | 5-(2,3-dihydroxypropyl)-6-methoxy-1-tetralone | 200 mg | OC(CC1=C2CCCC(C2=CC=C1OC)=O)CO | C14H18O4
reactant | 6-hydroxy-1-tetralone | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | methoxylamine hydrochloride | 401 mg | Cl.O(C)N
reactant | sodium acetate | 394 mg | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 5-(2,3-dihydroxypropyl)-6-methoxy-3,4-dihydro-2H-naphthalen-1-one O-methyloxime | 183 mg | CON=C1CCCC2=C(C(=CC=C12)OC)CC(CO)O | C15H21NO4
